US04299615
Preparation of 2,6-Dichlorobenzylphosphonic Acid
O,O-Diethyl 2,6-dichlorobenzylphosphonate (1794 grams) and concentrated hydrochloric acid (2 l) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at reflux for a period of 16 hours. The mixture was then cooled in the formation of a solid product. This product was recovered by filtration was washed with water and dried to yield the desired product 2,6-dichlorobenzylphosphonic acid having a melt point of 211° to 218° C.

reactant | O,O-Diethyl 2,6-dichlorobenzylphosphonate | 1794 grams | ClC1=C(CP(OCC)(OCC)=O)C(=CC=C1)Cl | C11H15Cl2O3P
reactant | hydrochloric acid | 2 l | Cl | ClH
product | 2,6-dichlorobenzylphosphonic acid | ClC1=C(CP(O)(O)=O)C(=CC=C1)Cl | C7H7Cl2O3P
